US04082851
By replacing in Example 4 methyl 3-amino-4-benzyl-5-sulfamylbenzoate with an equimolar amount of methyl 5-amino-4-benzyl-3-n-butoxybenzoate (mp 82°-83° C.) and following the procedure described, 5-amino-4-benzyl-3-n-butoxybenzyl alcohol is obtained with a melting point of 105°-107° C.

reactant | methyl 3-amino-4-benzyl-5-sulfamylbenzoate | NC=1C=C(C(=O)OC)C=C(C1CC1=CC=CC=C1)S(N)(=O)=O | C15H16N2O4S
reactant | methyl 5-amino-4-benzyl-3-n-butoxybenzoate | NC=1C(=C(C=C(C(=O)OC)C1)OCCCC)CC1=CC=CC=C1 | C19H23NO3
product | 5-amino-4-benzyl-3-n-butoxybenzyl alcohol | NC=1C(=C(C=C(CO)C1)OCCCC)CC1=CC=CC=C1 | C18H23NO2
